US06251912B1
3-Amino-4-[4-(3-bromo-phenylamino)-quinazolin-6-ylamino]-cyclobut-3-ene-1,2-dione
A mixture of 0.8 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione, 8 mL of ammonium hydroxide, and 8 mL of ethanol was refluxed for 1 hr. The mixture was cooled to room temperature and the solid was collected and washed with ethanol and ether giving 0.65 g of 3-Amino-4-[4-(3-bromo-phenylamino)-quinazolin-6-ylamino]-cyclobut-3-ene-1,2-dione as a yellow powder: mass spectrum (m/e): M+H 412.1.

reactant | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione | 0.8 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1OCC)=O)=O | C20H15BrN4O3
reactant | ammonium hydroxide | 8 mL | [OH-].[NH4+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 3-Amino-4-[4-(3-bromo-phenylamino)-quinazolin-6-ylamino]-cyclobut-3-ene-1,2-dione | NC=1C(C(C1NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Br)=O)=O | C18H12BrN5O2
